US06124488
a. Preparation of (dimethylaminoethyl)tri(2-propyl)cyclopentadiene
In a dry 500 mL three-necked flask with a magnetic stirrer, a solution of 62.5 mL of n-butyllithium (1.6M in n-hexane; 100 mmol) was added under a dry nitrogen atmosphere to a solution of 19.2 g (100 mmol) of triisopropylcyclopentadiene in 250 mL of THF at -60° C. After warming to room temperature (in approximately 1 hour) stirring continued for a further 2 hours. After cooling to -60° C., a solution of (dimethylaminoethyl) tosylate (105 mmol) prepared in situ was added over a period of 5 minutes. The reaction mixture was warmed to room temperature, followed by overnight stirring. After addition of water, the product was extracted with petroleum ether (40-60° C.). The combined organic layer was dried (Na2SO4) and evaporated under reduced pressure. The conversion was greater than 95%. The yield of product after distillation (based on triisopropylcyclopentadiene) was approximately 55%.

reactant | n-butyllithium | 100 mmol, 1.6M, 62.5 mL | C(CCC)[Li]
reactant | triisopropylcyclopentadiene | 100 mmol, 19.2 g | C(C)(C)C=1C(=C(CC1)C(C)C)C(C)C | C14H24
reactant | (dimethylaminoethyl) tosylate | 105 mmol | S(=O)(=O)(OCCN(C)C)C1=CC=C(C)C=C1 | C11H17NO3S
reactant | water | O | H2O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (dimethylaminoethyl)tri(2-propyl)cyclopentadiene | CN(C)CCC1=C(C(=C(C1)C(C)C)C(C)C)C(C)C | C18H33N
